US04814329
5-Phenylsulfinyl-2-(2-propenylthio)-benzimidazole hydrochloride
6.86 g (25 mmoles) of 5-phenylsulfinyl-benzimidazoline-2-thione and 4.9 ml (60 mmoles) of allylchloride are refluxed in 50 ml of ethanol for 24 hours. Then the reaction mixture is concentrated and the residue is crystallized from acetonitrile. The weight of the filtered endproduct is 7.68 g (87.55%). After recrystallization from ethanol it melts at 168° C.

reactant | 5-phenylsulfinyl-benzimidazoline-2-thione | 25 mmoles, 6.86 g | C1(=CC=CC=C1)S(=O)C1=CC2=C(NC(N2)=S)C=C1 | C13H10N2OS2
reactant | allylchloride | 60 mmoles, 4.9 ml | C(C=C)Cl | C3H5Cl
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-Phenylsulfinyl-2-(2-propenylthio)-benzimidazole hydrochloride | Cl.C1(=CC=CC=C1)S(=O)C1=CC2=C(N=C(N2)SCC=C)C=C1 | InChI=1S/C16H14N2OS2.ClH/c1-2-10-20-16-17-14-9-8-13(11-15(14)18-16)21(19)12-6-4-3-5-7-12;/h2-9,11H,1,10H2,(H,17,18);1H
